Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o HTN and chronic pain on methadone who was
transferred from ___ after presenting with
progressively worsening fever, fatigue and feeling faint for the
past six days, found to have ___, postural hypotension and
pancytopenia. 

She reports development of fevers (max 103.6) and drenching 
night
sweats starting on ___. The fevers seem to start in the 
late
afternoon and persist during the night. She also complains of
generalized fatigue, arm aches and heaviness, "vicegrip"
headaches when leaning forward, and intermittent b/l tinnitus.
She also reports vision changes, with "black outs" upon waking 
up
and standing and intermittent bright ___ vision during
the day. She reports one episode of SOB when she laid down on 
the
couch after feeling "off" in the shower. She says that she has
been "dying of thirst" at home during this illness and that she
has been taking in a lot of fluids, but she has a significantly
reduced UOP despite still feeling the need to urinate and even
some feelings of urinary urgency. She says that her urine has
been ___ she noticed that it was cloudy and later
became dark. On ___ while in a store with her husband, she felt
so weak that she had to sit on the ground. She reports sitting 
on
the floor in the store with ___ vision, and she says
that she was unable to hear her husband. 

Of note, she has taken two trips recently. In ___, she spent
10 days in ___, and from ___, she was in ___.
She denies exposure to farms or wild animals while on these
trips. She has no memory of ticks or bug bites, but she does say
that she did not use bug spray. She says that she has felt "off"
since her trip to ___, including feeling the ringing in her
ears.
 
She denies any chest pain, rashes, abdominal pain, nausea, or
vomiting during this time. Denies joint pain but endorses some
shoulder weakness and possible muscle soreness in arms. 

At the OSH, her initial vitals were: temp 97.7, BP 79/55, HR 63,
RR 18, O2sat 100%RA. She received 2L NS with good BP response to
121/60 4 hours later. 

OSH labs notable for the following: 
 - BMP: Na 133, K 3.4, bicarb 24, AG 9, Cr 2.7, BUN 31
 - Tbili 0.7, dBili 0.5
 - TotProt 7.0, Alb 3.0, Globulin 4.0
 - AST 44, ALT 53, AlkPhos 108
 - WBC 3.7, H/H 10.7/32.2, plt 107.
 - Diff: neut 75.9%, lymph 17.1%, monos 4.6%, eos 0.5%; lymph 
ABS
0.63, monos ABS 0.17, eos ABS 0.02
 - Lactic acid 0.5

 - Urinalysis:
   - Protein 100, urobilinogen 2.0, leukocyte esterase 500,
nitrites negative, WBC > 50, RBC > 50, no bacteria, WBC clumps
present
   - Squamous epithelial cells present 

OSH studies notable for the following: 
 - CXR: no acute cardiopulmonary abnormality 
 - CT abd/pelvis ___: splenomegaly. 
 - CT head/neck: interpretation pending 
 - EKG: normal sinus rhythm, rate 61; TWI in ___ different 
from
previous; no ST elevations or depressions

After BP stabilization with fluid, it was determined that she
would be better served with care at a tertiary care facility, so
she was transferred to ___ for further management. 

In the ___ ED - 
-Initial VS: Temp: 98.1 HR: 70 BP: 110/70 Resp: 16 O(2)Sat: 98

-Physical exam:
 - Notable for rrr, CTAB, abd soft and nontender, no rash, neck
supple, ___ and gross motor, sensory, and cerebellar function
intact 

- Labs: Reviewed in OMR. 

134  99  33  
============<109    
4.0  18  2.8  
CK: 78 
Ca: 8.4 Mg: 2.2 P: 4.1

ALT: 42 AP: 97 Tbili: 0.7 Alb: 3.3 
AST: 35
Lip: 24     

5.0 <11.2 /32.3> 123 
N:83.4 L:10.8 M:4.4 E:0.4 Bas:0.2 ___: 0.8 Absneut: 4.19
Abslymp: 0.54 Absmono: 0.22 Abseos: 0.02 Absbaso: 0.01  
___: Includes Metas, Myelos And Pros. 

Lactate 1.1
Flu negative

Other Hematology
___: Available At The ___ Lab 
___: 12.3  PTT: 28.6  INR: 1.1  

-  Micro notable for: 
 - BCx x2 - pnd

- Imaging was notable for: CXR, CT Torso from OSH
 
- Patient was given:  
 - 2 L NS
 - IV Ceftriaxone (1 g)
 - IV Azithromycin 500mg  

Upon arrival to the floor, patient confirms the HPI given above.
She endorses chills this morning and a sore throat that was not
previously present. On multiple occasions, she reports feeling
the need to urinate and rushing to the bathroom but only
producing "a few drops" of urine.
 
Past Medical History:
- Chronic pain in Rt arm
- Hypertensive disorder 
- Chronic hepatitis C 
- Gastroesophageal reflux disease 
- Peripheral neuropathy 
- Alcohol dependence 
- Abnormal breast exam 
- Benign essential hypertension 
- Thrombocytopenia 
- Calculus of bile duct without cholecystitis with obstruction 
 
Social History:
___
Family History:
 - Father: heart disease (unknown type); bone cancer as child
with no remissions; diabetes
 - Siblings: heart murmurs
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

VITAL SIGNS: T 98.6, HR 68, BP 103/61, RR 20, O2 99% RA  
GENERAL: AOx3, sweating and appears ill   
HEENT: mild periorbital edema; no conjunctival injection; no
scleral icterus; white/yellow plaques on tongue  
NECK: supple
CARDIAC: rrr, no mrg
LUNGS: CTAB
ABDOMEN: soft, ___ bladder palpable with tenderness 
to
palpation in suprapubic region 
EXTREMITIES: WWP no c/c/e b/l 2+ DP and radial pulses. No
synovitis
NEUROLOGIC: ___ intact. Gait normal.
SKIN: facial erythema in malar distribution as well as on
forehead and chin; no noted rashes or purpura on back, chest, or
extremities including palms and soles

======================================

DISCHARGE PHYSICAL EXAM: 

VITAL SIGNS: 98.1 ___ 129/74 ___ 70 
___ 98 RA ___ RA) 
GENERAL: AOx3  
HEENT: no facial or periorbital edema; no scleral icterus 
NECK: supple
CARDIAC: rrr, no mrg
LUNGS: CTAB
ABDOMEN: soft, ___ tender to palpation diffusely but 
no rebound or guarding; negative ___ sign
EXTREMITIES: WWP no c/c/e b/l 2+ DP and radial pulses. No
synovitis; pain on lateral infrapatellar aspect of LLE with 
passive and active flexion, absent on extension and at rest 
NEUROLOGIC: ___ intact. Upper and lower extremity gross 
strength and sensation in tact. Gait normal.
SKIN: facial erythema has subsided; no noted rashes or purpura 
on back, chest, or extremities including palms and soles

 
Pertinent Results:
ADMISSION LABS: 

___ 12:37AM BLOOD ___ 
___ Plt ___
___ 12:37AM BLOOD ___ 
___ Im ___ 
___
___ 12:37AM BLOOD ___ ___
___ 12:37AM BLOOD ___ 
___
___ 12:37AM BLOOD ___ CK(CPK)-78 ___ 
___
___ 12:37AM BLOOD ___

==========================

PERTINENT LABS:

___ 12:37AM BLOOD SED RATE  67  
___ 12:37AM BLOOD ___
___ 08:10AM BLOOD ___  
___ 03:55PM BLOOD HCV ___ DETECT
___ 12:37AM BLOOD HCV ___
___ 08:10AM BLOOD HIV ___
___ 07:40AM BLOOD ___ LD(LDH)-123 ___ 
___
___ 07:40AM BLOOD Parst ___
___ 08:10AM BLOOD Parst ___ FOR INTACELLULAR AND 
EXTRACELLULAR FORMS
___ 07:40AM BLOOD ___ 
___

==========================

MICROBIOLOGY:

___ 5:03 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by PANTHER System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Negative for Neisseria gonorrhoeae by PANTHER System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

___ 10:51 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference ___.

___ 12:03 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH.

==========================

IMAGING/STUDIES:

RENAL US ___:

FINDINGS: 
 
The right kidney measures 12.4 cm. The left kidney measures 12.6 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical
echogenicity and corticomedullary differentiation are seen 
bilaterally.  On
views of the left kidney the spleen is noted to be enlarged 
measuring 16.3 cm.
 
The bladder is moderately well distended and normal in 
appearance.  On
postvoid imaging the bladder is collapsed.
 
IMPRESSION:
 
1. Normal appearance of the kidneys and bladder.
2. Incidental note of splenomegaly.

===========================

DISCHARGE LABS:

___ 08:10AM BLOOD ___ 
___ Plt ___
___ 08:10AM BLOOD ___ 
___RIEF SUMMARY:

___ with h/o HTN and chronic pain on methadone who was 
transferred from ___ after presenting with 
progressively worsening fever, fatigue and feeling faint for 1 
week and was found to be have a UTI (E.coli, sensitive to 
cephalosporins and quinolones), urinary retention, and ___. On 
admission, her urinary retention was relieved with straight 
catheterization and her ___ improved. She was treated with 
ceftriaxone (___). Pt continued to spike fevers with bloody 
diarrhea and stool cultures were sent. Blood cultures were no 
growth to date at the time of discharge. ID was consulted and 
recommended additional testing, all of which was negative. A 
large ___ was unrevealing for another cause. Most likely, 
the patient had an E. coli UTI and had ___ 
diarrhea. On ___, patient was transitioned to Ciprofloxacin 
and ID team recommended 5 day course (___). Patient was 
tolerating PO fluids and food prior to discharge, and given mild 
nausea was discharged with PO Zofran. QTc was checked prior to 
discharge and was 450. 

=================================

ACTIVE ISSUES:

# E. coli UTI:
# Fever, malaise, body aches: 
Acute illness x1 week, also with urinary symptoms. Initially 
presented to OSH with hypotension, likely due to volume 
depletoion. Most likely UTI/Pyelonephritis as UCx from ___ 
___ (___) with >100,000 CFU/ml E. coli, sensitive to 
Ceftriaxone. Initially treated with CTX x2 doses, then changed 
to ciprofloxacin 500 BID (___). UCx from ___ at ___ with 
no growth. Initially febrile on antibiotics, and therefore ID 
was consulted and broad workup sent for infectious, 
rheumatoligic causes: Urine GC/Chlamydia negative; FluA,FluB 
PCRs negative; HIV negative, Tick panel (from ___) 
negative; blood smear negative for parasites, HCV ab viral load 
undetectable, elevated ESR and CRP, though downtrended at 
discharge; ___ negative; EBV, CMV, HIV viral load pending at 
discharge. Given pancytopenia and splenomegaly, neoplastic BM 
process possible including MDS, lymphoma, myeloma, metastatic 
cancer. 

# Emesis/diarrhea: On night of ___, multiple episodes of 
diarrhea, described as initially greenish, watery and later red 
water; also multiple episodes of vomiting (yellow/brown). Most 
likely antibiotic side effect vs infectious cause though C. 
diff, norovirus negative. Stool cultures sent, pending at 
discharge. Improved with immodium. If infectious w/u negative, 
also consider ulcerative colitis given high ESR and CRP, though 
downtrended on antibiotics.

# ___: 
# Urinary retention: Cr 2.8 on admission up from baseline 0.68
(___). Most consistent with ___ injury ___ retention 
x1 week, given that Cr downtrended after straight cath on ___, 
to 0.9 on ___. Retention likely ___ to E. coli UTI or 
phenylephrine use last week. 

# Pancytopenia: Most recent CBC in ___ with WBC 3.9, Hgb 
9.6,
Plt 68, but low normal as far back as ___. Unclear etiology
based on chart review. During admission, WBC and platelets have 
trended up to normal range. Most likely ___ to poor nutrition - 
patient states that she does not each much at home and consumed 
excess alcohol until two months ago. Considered SLE but ___ 
negative. Malignancy also on ddx, not worked up as inpatient. 

CHRONIC ISSUES
--------------

# Hypertension: Baseline BP 112/80 in ___. Stable. Held home 
lisinopril 40 mg, labetalol 300 mg BID even on discharge given 
normotensive

# Chronic Pain: Stable. Continued methadone 10 mg BID (dose
verified in Partners physician ___

# ___ neuropathy: Stable. Continued gabapentin

# Chronic HCV s/p Harvoni: HCV VL undetectable ___

===========================

TRANSITIONAL ISSUES:

- New Meds: 
Ciprofloxacin 500mg BID x 5 days
Ondansetron (Zofran) 4mg PO q8h:prn x 7 days
- Stopped Meds: Labetalol and Lisinopril (given normotensive, 
held until outpatient PCP ___
- Changed Meds: none
- Follow up: PCP
- ___ findings: Gallstones, e/o of cirrhosis, 
splenomegaly (15.7cm), inraaortocaval and periportal LAD, 
bulging disc at L5/S1 and L5/S1, small umbilical hernia 
containing omental fat seen on OSH CT
- Tests required after discharge: none
- Tests pending at discharge: HIV viral load, EBV, CMV, Fecal 
cultures, blood cultures

# CODE: full 
# CONTACT: ___ (husband) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Gabapentin 1600 mg PO BID 
3. BuPROPion 150 mg PO BID 
4. Methadone 10 mg PO BID 
5. Labetalol 300 mg PO BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 
3.  BuPROPion 150 mg PO BID  
4.  Gabapentin 1600 mg PO BID  
5.  Methadone 10 mg PO BID  
6. HELD- Labetalol 300 mg PO BID  This medication was held. Do 
not restart Labetalol until seen by PCP. Patient was 
normotensive during hospitalization.
7. HELD- Lisinopril 40 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until seen by PCP. Patient was 
normotensive during hospitalization.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Urinary tract infection
# acute kidney injury
# urinary retention
# diarrhea
# chronic hepatitis C virus
# pancytopenia
# hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

You came to ___ from another hospital because you had a fever 
and other symptoms for 1 week. You were found to have a urinary 
tract infection and a kidney injury. Please see more details 
listed below about what happened while you were in the hospital 
and your instructions for what to do after leaving the hospital.

It was a pleasure participating in your care. We wish you the 
best! 

Sincerely,
Your ___ Care Team

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
- You were retaining urine, which was likely the cause of your 
kidney injury. This was relieved with a catheter and your kidney 
function improved
- Your urinary tract infection was treated with IV antibiotics 
and then you will need to continue taking Ciprofloxacin for a 
total of 5 days ending ___
- Many other tests were sent to make sure there was not another 
reason to explain your symptoms. These were negative.
- You improved considerably and were ready to leave the hospital

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:
- Please follow up with your primary care doctor and other 
health care providers (see below)
- Please take all of your medications as prescribed (see below).
- Seek medical attention if you have fevers, chills, joint 
swelling, rashes, blood in your stool, or other symptoms of 
concern. 
 
Followup Instructions:
___